US06951867B2
Step 1, ethyl 2-[4-(aminocarbonyl)piperidin-1-yl]-2-methylpropanoate
The title compound was prepared according to the procedure described in the Example 17 from piperidine-4-carboxamide and ethyl 2-bromo-2-methylpropanoate.

reactant | piperidine-4-carboxamide | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | ethyl 2-bromo-2-methylpropanoate | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | ethyl 2-[4-(aminocarbonyl)piperidin-1-yl]-2-methylpropanoate | NC(=O)C1CCN(CC1)C(C(=O)OCC)(C)C | C12H22N2O3
